** Pulse Modulations

.lib LTspiceControlLibrary\Sources.lib

.subckt 3PhaseComplementaryPWM U V W up un vp vn wp wn
X1 CN 0 TriangleWaveVoltage V1={Vin1} V2={Vin2-Vdead} Tperiod={Tperiod} tratio=0.5 Tdelay={Tdelay} Ncycles=0
B1 CP 0 V=V(CN)+Vdead
B2 up 0 V=V(U)>=V(CP) tripdt={tripdt} ic=0
B3 un 0 V=V(U)<=V(CN) tripdt={tripdt} ic=0
B4 vp 0 V=V(V)>=V(CP) tripdt={tripdt} ic=0
B5 vn 0 V=V(V)<=V(CN) tripdt={tripdt} ic=0
B6 wp 0 V=V(W)>=V(CP) tripdt={tripdt} ic=0
B7 wn 0 V=V(W)<=V(CN) tripdt={tripdt} ic=0
.params Vin1=-1 Vin2=1 Tperiod=100u Tdead=1u Tdelay=0 tripdt=1*Tdead
.params Vdead=2*(Vin2-Vin1)/(Tperiod/Tdead+2)
.ends 3PhaseComplementaryPWM

.subckt ComplementaryBufferWithDeadtime I P N
B1 P 0 V=idt(buf(V(I)),0,inv(V(I)))>=Tdead tripdt={tripdt}
B2 N 0 V=idt(inv(V(I)),0,buf(V(I)))>=Tdead tripdt={tripdt}
.params Tdead=1u tripdt=1*Tdead
.ends ComplementaryBufferWithDeadtime

.subckt RisingEdgeDetector I P
B1 P1 0 V=idt(buf(V(I)),0,inv(V(I)))>=Tedge tripdt={tripdt}
B2 P 0 V=buf(V(I))^V(P1)
.params Tedge=1u tripdt=0.1*Tedge
.ends RisingEdgeDetector

.subckt FallingEdgeDetector I P
B1 P1 0 V=idt(inv(V(I)),0,buf(V(I)))>=Tedge tripdt={tripdt}
B2 P 0 V=inv(V(I))^V(P1)
.params Tedge=1u tripdt=0.1*Tedge
.ends FallingEdgeDetector

.subckt BothEdgesDetector I P
XU1 I P1 N1 ComplementaryBufferWithDeadtime Tdead={Tedge} tripdt={tripdt}
B1 P 0 V=!(V(P1)^V(N1))
.params Tedge=1u tripdt=0.1*Tedge
.ends BothEdgesDetector

.subckt PulseTimer I P
B1 P 0 V=idt(F,ic,buf(V(I)))
.params F=1 ic=0
.ends PulseTimer
